US08252793B2
Methyl 6-formylnicotinate (1.0 g, 6.06 mmol) and tert-butyl (triphenylphosphoranylidene)acetate (2.73 g, 7.27 mmol) were put in suspension in water (50 mL) and stirred at 90° C. for 2 h. The reaction mixture was cooled to room temperature and concentrated under pressure. The residue was triturated in ethyl acetate and filtered. The filtrate was concentrated and purified by flash chromatography using hexanes-ethyl acetate 10% to give (E)-methyl 6-(3-(tert-butoxy)-3-oxoprop-1-en-1-yl)nicotinate. MS (APCI) 264 (M+). (E)-methyl 6-(3-(tert-butoxy)-3-oxoprop-1-en-1-yl)nicotinate was dissolved in ethanol in the presence of 50 mg Pd/C, 10% and stirred under hydrogen balloon overnight to give 6-2(tert-butoxycarbonyl-ethyl)nicotinic methyl ester. LCMS: 266 (M+)

reactant | Methyl 6-formylnicotinate | 6.06 mmol, 1.0 g | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | tert-butyl (triphenylphosphoranylidene)acetate | 7.27 mmol, 2.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC(C)(C)C | C24H25O2P
solvent | water | 50 mL | O | H2O
product | (E)-methyl 6-(3-(tert-butoxy)-3-oxoprop-1-en-1-yl)nicotinate | C(C)(C)(C)OC(/C=C/C1=NC=C(C(=O)OC)C=C1)=O | C14H17NO4
